US07323460B2
Step 3: 8-Hydroxy-5-[methyl(methylsulfonyl)amino]-1,6-naphthyridine-7-carboxylic acid
Sodium hydroxide (2.31 mL, 2.31 mmol, 1N solution) was added to a suspension of methyl 8-hydroxy-5-[methyl(methylsulfonyl)amino]-1,6-naphthyridine-7-carboxylate (240 mg, 0.77 mmol) in a 1:1 solution of THF/methanol (5 mL) and the resulting mixture was heated overnight at 50° C. In the morning, the homogeneous solution was acidified to a pH=4 using 1N HCl solution. The reaction was cooled and the solids that had precipitated out of solution were collected by vacuum filtration to give the desired product as an off-white solid.

reactant | Sodium hydroxide | 2.31 mmol, 1N, 2.31 mL | [OH-].[Na+]
reactant | methyl 8-hydroxy-5-[methyl(methylsulfonyl)amino]-1,6-naphthyridine-7-carboxylate | 0.77 mmol, 240 mg | OC=1C(=NC(=C2C=CC=NC12)N(S(=O)(=O)C)C)C(=O)OC | C12H13N3O5S
reactant | HCl | 1N | Cl | ClH
solvent | THF methanol | 5 mL | C1CCOC1.CO
product | 8-Hydroxy-5-[methyl(methylsulfonyl)amino]-1,6-naphthyridine-7-carboxylic acid | OC=1C(=NC(=C2C=CC=NC12)N(S(=O)(=O)C)C)C(=O)O | C11H11N3O5S
